US05739129
(2-Nitrophenyl)-(1,3,5-trimethyl-1H-pyrazol-4-yl)-amine
To a solution of 1-fluoro-2-nitrobenzene (7.47 mL, 70.9 mmol) in ethanol (35 mL) and H2O (105 mL) was added 4-amino-1,3,5-trimethylpyrazole (8.8 g, 70.9 mmol). The solution was refluxed for 15 h, then cooled to room temperature. The precipate was separated by filteration and washed with 25% aqueous ethanol to yield the title compound (8.6 g): 1HNMR (CDCl3, 300 MHz) δ 8.81 (s, 1H), 8.18 (dd, 2H, J=1.6, 8.7), 6.69(m, 1H) 6.61 (dd, 1H, J=1.2, 8.7), 3.77 (s, 3H), 2.10 (s, 3H), 2.06 (s, 3H); low resolution MS(FAB) m/z 247(MH+).

reactant | 1-fluoro-2-nitrobenzene | 70.9 mmol, 7.47 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-amino-1,3,5-trimethylpyrazole | 70.9 mmol, 8.8 g | NC=1C(=NN(C1C)C)C | C6H11N3
solvent | ethanol | 35 mL | C(C)O | C2H6O
solvent | H2O | 105 mL | O | H2O
product | (2-Nitrophenyl)-(1,3,5-trimethyl-1H-pyrazol-4-yl)-amine | 8.6 g | [N+](=O)([O-])C1=C(C=CC=C1)NC=1C(=NN(C1C)C)C | C12H14N4O2
